US06610518B2
Sodium hydride (80% oil dispersion 132 mg) was cautiously added to a suspension of N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-3,3-dimethyl-1-butanesulfonamide (Preparation 2)(420 mg) in dry methanol (12 ml) divided equally between two 10 ml Wheaton reacti-vials™, and the resulting mixtures stirred at 100° C. for 3 hours. The reactions were then combined and partitioned between ethyl acetate (40 ml) and 2N aqueous hydrochloric acid (20 ml) and the organic phase separated. The aqueous was extracted with ethyl acetate (20 ml) and the organic phases combined, washed (water 2×20 ml), dried (Na2SO4) and evaporated under reduced pressure. Column chromatography on silica eluting with a solvent gradient of dichloromethane:methanol 99:1 changing to 97:3 gave N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-3,3-dimethyl-1-butanesulfonamide as an off-white coloured foam (265 mg).

reactant | Sodium hydride | 132 mg | [H-].[Na+]
reactant | N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-3,3-dimethyl-1-butanesulfonamide | 420 mg | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCC(C)(C)C)OC1=C(C=CC=C1)OC | C21H24ClN5O4S
reactant | methanol | 12 ml | CO | CH4O
product | N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-3,3-dimethyl-1-butanesulfonamide | 265 mg | COC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCC(C)(C)C)OC1=C(C=CC=C1)OC | C22H27N5O5S
